US07981903B2
10% palladium on carbon (0.25 g, 8.52 mmol) was placed under N2 atm. MeOH (10 mL) was added, followed by a solution of N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide (1.86 g, 6.61 mmol) in MeOH (90 mL). The slurry was purged with N2, then was placed under H2 atm via a rubber balloon and maintained at rt for 2 days. The resulting mixture was filtered through Celite. The filtrate was concentrated. The oily residue was taken up into Et2O and concentrated again to obtain N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide as a white foamy solid (1.41 g, 85%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.00 (s, 3H), 2.11 (s, 6H), 2.58 (d, J=15.57 Hz, 1H), 2.77 (d J=15.57 Hz, 1H), 2.97 (s, 3H), 3.77 (s, 3H), 4.70 (s, 2H), 6.41 (s, 1H), 6.72 (s, 1H); ESIMS (M+H)+=252.10.

reactant | N1,N2,N2-trimethyl-N1-[2-methyl-4-(methyloxy)-5-nitrophenyl]glycinamide | 6.61 mmol, 1.86 g | CN(C(CN(C)C)=O)C1=C(C=C(C(=C1)[N+](=O)[O-])OC)C | C13H19N3O4
catalyst | palladium on carbon | 8.52 mmol, 0.25 g | [Pd] | Pd
solvent | MeOH | 90 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | N1-[5-amino-2-methyl-4-(methyloxy)phenyl]-N1,N2,N2-trimethylglycinamide | 1.41 g, 85% | NC=1C(=CC(=C(C1)N(C(CN(C)C)=O)C)C)OC | C13H21N3O2
